US07144614B2
A heat transfer medium-circulating 2-L stainless steel autoclave equipped with a stirrer was charged with high-purity terephthalic acid and ethylene glycol in the molar ratio of 1:2, and triethylamine was added in an amount of 0.3 mol-% relative to the acid component, and the mixture was subjected to esterification reaction for 120 minutes at a pressure of 0.25 MPa at 245° C. while water was distilled away from the system, whereby a mixture of bis(2-hydroxyethyl) terephthalate (BHET) and oligomers (referred to hereinafter as BHET mixture) was obtained. To this BHET mixture was added the above-described aluminum salt A in an amount of 0.02 mol-% in terms of aluminum atom relative to the acid component in the polyester, and the mixture was stirred at 245° C. for 10 minutes in a nitrogen atmosphere at normal pressure. Then, the temperature was increased to 275° C. over 50 minutes while the pressure in the reaction system was gradually reduced to 0.1 Torr, and the polymerization reaction was further conducted at 275° C. at 0.1 Torr. The polymerization time (AP) necessary for the IV of the polyethylene terephthalate to reach 0.65 dl/g is shown in Table 13.

reactant | terephthalic acid | C(C1=CC=C(C(=O)O)C=C1)(=O)O | C8H6O4
reactant | ethylene glycol | C(CO)O | C2H6O2
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
product | BHET | C(C1=CC=C(C(=O)OCCO)C=C1)(=O)OCCO | C12H14O6
